US07547786B2
2-Bromo-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine
2-Amino-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine (600.0 g) was suspended in water (6.0 L), and 48% hydrobromic acid (4.2 L) was added dropwise thereto at 5 to 15° C. A solution of sodium nitrite (367.2 g) in water (1.8 L) was added dropwise thereto at 0 to 5° C. over 1.5 hours, and the reaction mixture was heated to 30° C., followed by stirring for 24 hours. The resultant mixture was made strongly basic (pH 12.5) with 5N aqueous sodium hydroxide (6.0 L). The aqueous layer was extracted with toluene twice (12.0 L, 6.0 L), and the toluene layers were combined. The combined toluene layer was dried over sodium sulfate anhydrate (1202.0 g), and after any insoluble material was filtered off, the mother liquor was concentrated at 40° C. under reduced pressure, to thereby give 557.6 g of the title compound.

reactant | 2-Amino-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 600.0 g | NC=1SC=2CN(CCC2N1)C | C7H11N3S
reactant | hydrobromic acid | 4.2 L | Br | BrH
reactant | sodium nitrite | 367.2 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 5N, 6.0 L | [OH-].[Na+]
solvent | water | 6.0 L | O | H2O
solvent | water | 1.8 L | O | H2O
product | 2-Bromo-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 557.6 g | BrC=1SC=2CN(CCC2N1)C | C7H9BrN2S
